US05155110
2-(2,6-Dichloro-3-methYlphenyl)amino-N-methoxybenzamide (1.6 %) is added to a THF (20 ml) solution of NaHCO3 (0.14 g) and ethyl chloroformate (0.25 g) at -30° C. under argon. The reaction is allowed to stir overnight. The THF is evaporated and the residue is partitioned between diethyl ether and water. The organic layer is washed twice with water and brine after being dried over magnesium sulfate. The organic layer is concentrated to give a white solid, which is dissolved in THF and treated with sodium hydride at reflux for one hour under argon. The reaction is acidified with 1 N HCl and partitioned between ethyl acetate and water. The organic layer is washed with brine and dried (MgSO4). The solvent is evaporated and the residue is adsorbed onto a silica gel pad. The pad is washed with chloroform to give the product. Recrystallization from CH2Cl2 /Et2O gives 0.64 g (52% yield) of 1-(2,6-dichloro-3-methylphenyl)-3-methoxy-2,4-(1H,3H)-quinazolinedione, mp 211°-213° C.

reactant | 2-(2,6-Dichloro-3-methYlphenyl)amino-N-methoxybenzamide | ClC1=C(C(=CC=C1C)Cl)NC1=C(C(=O)NOC)C=CC=C1 | C15H14Cl2N2O2
reactant | NaHCO3 | 0.14 g | C(=O)(O)[O-].[Na+]
reactant | ethyl chloroformate | 0.25 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydride | [H-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(2,6-dichloro-3-methylphenyl)-3-methoxy-2,4-(1H,3H)-quinazolinedione | 0.64 g, 52% yield | ClC1=C(C(=CC=C1C)Cl)N1C(N(C(C2=CC=CC=C12)=O)OC)=O | C16H12Cl2N2O3
